US05703108
1,3-Benzodioxol-5-yl-acetic acid methyl ester
A solution of 3,4-(methylenedioxy)phenylacetic acid (28.0 g, 155 mmol), catalytic TsOH, and MeOH (125 mL) was stirred over 60 h. Saturated aqueous NaHCO3 was added and the product was extracted into CH2 Cl2. The organic solution was dried (MgSO4), filtered, and concentrated. Distillation (120 -1° C., 1 mmHg) provided the title compound as a clear and colorless oil (27.6 g). 1H NMR (250 MHz, CDCl3): δ6.74 (m, 3H), 5.94 (s, 2H), 3.69 (s, 3H), 3.54 (s, 2H).

reactant | 3,4-(methylenedioxy)phenylacetic acid | 155 mmol, 28.0 g | C1OC2=C(O1)C=C(C=C2)CC(=O)O | C9H8O4
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 125 mL | CO | CH4O
product | 1,3-Benzodioxol-5-yl-acetic acid methyl ester | COC(CC1=CC2=C(OCO2)C=C1)=O | C10H10O4
